US04517202
A solution of crude 6-hydroxy-2-methoxycarbonylbicyclo[3,3,0]octane (1.98 g; prepared as described in Reference Example 6 and predominantly in the 2β-configuration) in dichloromethane (10 ml) was added to a stirred suspension of pyridinium chlorochromate (3.5 g) in dichloromethane (35 ml), and the mixture was stirred for 2 hours. The mixture was then diluted with diethyl ether (200 ml), and the supernatant liquid was decanted onto a short column of silica gel. The residue was triturated with diethyl ether several times until it became granular in aspect and then all the ethereal washings were added to the column. The column was eluted with diethyl ether and the eluate was evaporated, to give crude 2-methoxycarbonylbicyclo[3,3,0]octan-6-one (1.71 g) [infra-red (I.R.) 1740 cm-1 ], predominantly in the 2β-configuration, and pure enough for use in the next stage.

reactant | 6-hydroxy-2-methoxycarbonylbicyclo[3,3,0]octane | OC1C2CCC(C2CC1)C(=O)OC | C10H16O3
reactant | pyridinium chlorochromate | 3.5 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-methoxycarbonylbicyclo[3,3,0]octan-6-one | 1.71 g | COC(=O)C1C2CCC(C2CC1)=O | C10H14O3
